* SPICE NETLIST
***************************************

.SUBCKT mimcap_g13 plus minus
.ENDS
***************************************
.SUBCKT spiral_inductor_lvs pos neg
.ENDS
***************************************
.SUBCKT Mux21 VDD A Y B ground S
** N=7 EP=6 IP=0 FDC=6
M0 Y 7 A ground nmos L=1.3e-07 W=6e-07 $X=-1155 $Y=95135 $D=19
M1 B S Y ground nmos L=1.3e-07 W=6e-07 $X=-645 $Y=95135 $D=19
M2 7 S ground ground nmos L=1.3e-07 W=6e-07 $X=835 $Y=95135 $D=19
M3 Y S A VDD pmos L=1.3e-07 W=1.35e-06 $X=-1165 $Y=108725 $D=25
M4 B 7 Y VDD pmos L=1.3e-07 W=1.35e-06 $X=-655 $Y=108725 $D=25
M5 7 S VDD VDD pmos L=1.3e-07 W=1.35e-06 $X=825 $Y=108725 $D=25
.ENDS
***************************************
.SUBCKT Mux81 ground VDD IN0 IN1 IN2 IN3 IN4 IN5 S0 IN6 IN7 S1 OUT1 S2
** N=20 EP=14 IP=42 FDC=42
X0 VDD IN0 8 IN1 ground S0 Mux21 $T=535 165780 0 0 $X=-1725 $Y=258945
X1 VDD IN2 6 IN3 ground S0 Mux21 $T=4340 165780 0 0 $X=2080 $Y=258945
X2 VDD 8 17 6 ground S1 Mux21 $T=8145 165780 0 0 $X=5885 $Y=258945
X3 VDD IN4 9 IN5 ground S0 Mux21 $T=11950 165780 0 0 $X=9690 $Y=258945
X4 VDD IN6 15 IN7 ground S0 Mux21 $T=15755 165780 0 0 $X=13495 $Y=258945
X5 VDD 9 18 15 ground S1 Mux21 $T=19560 165780 0 0 $X=17300 $Y=258945
X6 VDD 17 OUT1 18 ground S2 Mux21 $T=23365 165780 0 0 $X=21105 $Y=258945
.ENDS
***************************************
